US08614328B2
A mixture of 3-(3-bromo-benzyloxy)-phthalic acid (2.4 g, 6.7 mmol), alpha-amino-glutarimide hydrochloride (1.2 g, 7.1 mmol) in pyridine was refluxed overnight. The mixture was evaporated and the residue was purified by flash column chromatography (methanol/methylene chloride) to give 4-(3-bromo-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione as a white solid (1.8 g, 62% yield); HPLC: Waters Symmetry C13, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 60/40 CH3CN/0.1% H3PO4, 3.55 min (99.9%); mp, 246-248° C.; 1H NMR (DMSO-d6) δ 2.03-2.08 (m, 1H, CHH), 2.54-2.62 (m, 2H, CH2), 2.83-2.95 (m, 1H, CHH), 5.12 (dd, J=6, 12 Hz, 1H, CH), 5.39 (s, 2H, CH2), 7.37-7.88 (m, 7H, Ar), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.96, 30.92, 48.77, 69.00, 115.72, 116.69, 120.10, 121.76, 126.05, 129.75, 130.69, 130.74, 133.26, 137.07, 138.99, 155.19, 165.31, 166.74, 169.89, 172.74. Anal Calcd For C20H15N2O5Br: C, 54.19; H, 3.41; N, 6.32; Br 18.03. Found: C, 54.02; H, 3.22; N, 6.27; Br, 17.81.

reactant | 3-(3-bromo-benzyloxy)-phthalic acid | 6.7 mmol, 2.4 g | BrC=1C=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C15H11BrO5
reactant | alpha-amino-glutarimide hydrochloride | 7.1 mmol, 1.2 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(3-bromo-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 1.8 g, 62% yield | BrC=1C=C(COC2=C3C(N(C(C3=CC=C2)=O)C2C(NC(CC2)=O)=O)=O)C=CC1 | C20H15BrN2O5
